US04710492
A suspension of 3'-azido-2',3'-dideoxyuridine (1.0 g, 3.95 mmol) in 25 ml of acetic anhydride was heated until dissolution occurred (oil bath temperature of approximately 100° C. used). A solution of bromine (0.7 g, 4.35 mmol) in 3 ml of glacial acetic acid was added to the above solution with cooling, to maintain a temperature of 25° C. After being maintained overnight in the cold (4 C.), the solution was evaporated to dryness under reduced pressure (vacuum pump utilized) to yield 3'-azido-5'-O-acetyl-2',3'-dideoxy-5-bromouridine as a thick yellow syrup, which was disclosed immediately in 50 mL of absolute methanol containing 7 g of anhydrous ammonia. This solution was then kept at 4° C. for 48 hours. The solvent was removed in vacuo at 30° C. and then residue chromatographed on silica gel column (CH2Cl2 :EtOAc, 1:1). The fractions containing the desired product (Rf = 0.51) were pooled together and the solvent evaporated in vacuo to afford 0.55 g (42%) of white plate-like crystals mp 150-151° C.; IR (KBr) 4.70 (azido) μm; UV (EtOH)λmax 278 nm (ε14,300), UV (EtOH) λmin 240 nm, UV (0.1 N HCl)λmax 278 nm (ε9,400), UV (0.1 N HCl)λmin 240 nm, UV (0.1 N NaOH)λmax 274 nm (ε6,800), UV (0.1 N NaOH)λmin 248 nm; NMR (DMSO-d6) ε2.28-2.33 (m, 1H, 2'-Ha) 2.42-2.46 (m, 1H, 2'-Hb), 3.59 (d, 1H, 5'-Ha), 3.68 (d, 1H, 5'-Hb), 3,83 (m, 1H, 4'-H), 4.37 (q, 1H, 3'-H), 5.35 (br s, 1H, 5'-OH, D2O exchangeable), 6.01 (t, 1H, 1'-H), 8.37 (s, 1H, 6-H), 11.81 (br s, 1H, 3-NH, D2O exchangeable).

reactant | 3'-azido-2',3'-dideoxyuridine | 3.95 mmol, 1.0 g | N(=[N+]=[N-])[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C=C1 | C9H11N5O4
reactant | bromine | 4.35 mmol, 0.7 g | BrBr | Br2
reactant | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 3'-azido-5'-O-acetyl-2',3'-dideoxy-5-bromouridine | N(=[N+]=[N-])[C@H]1C[C@@H](O[C@@H]1COC(C)=O)N1C(=O)NC(=O)C(=C1)Br | C11H12BrN5O5
